US04237056
PREPARATION OF N-(4,5-DIMETHYL-1,3-DIOXOLAN-2-YL)-N-METHYL-2-CHLOROACETAMIDE
N-(2,2-Dimethoxyethyl)-N-methyl-2-chloroacetamide (97.8 grams; 0.5 mole), 2,3-butanediol (45 grams) and 0.2 grams p-toluenesulfonic acid were charged into a glass reaction vessel fitted with a mechanical stirrer, thermometer, distilling head and condenser. The reaction mixture was heated at about 90° C. to 100° for period of 5 hours. Little reaction occurred as shown by the absence of methanol distilled. The reaction mixture was then heated at about 110° C., for about 2 hours at atmospheric pressure, then 1 hour at reduced pressure. Under these more rigorous conditions, methanol was formed and was distilled off. At the conclusion of the reaction, the reaction mixture was distilled and the fraction boiling at 127° C. to 130° C. at 0.55 mm Hg was the desired product N-(4,5-dimethyl-1,3-dioxolan-2-yl)-N-methyl-2-chloroacetamide. 1,3-dioxolan-2-yl)-N-methyl-2-chloroacetamide.

reactant | N-(2,2-Dimethoxyethyl)-N-methyl-2-chloroacetamide | 0.5 mole, 97.8 grams | COC(CN(C(CCl)=O)C)OC | C7H14ClNO3
reactant | 2,3-butanediol | 45 grams | CC(C(C)O)O | C4H10O2
reactant | p-toluenesulfonic acid | 0.2 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | CO | CH4O
product | N-(4,5-DIMETHYL-1,3-DIOXOLAN-2-YL)-N-METHYL-2-CHLOROACETAMIDE | CC1OC(OC1C)N(C(CCl)=O)C | C8H14ClNO3
